US07667041B2
Synthesis of tert-butyl (Z)-2-(2-chloroethoxy)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylate
Lithium hydroxide (52.1 mg) was added to a solution of tert-butyl 2-chloroethoxy-(diethoxyphosphoryl)acetate (240 mg) synthesized by a technique described in a document (see C. J. Moody et al., “Tetrahedron”, 1992, vol. 48, p. 3991, for example) and 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (173 mg) in a mixture of THF (5.0 mL) with ethanol (1.0 mL), and the reaction solution was stirred at room temperature for 2.5 hours. Water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate system) to obtain 51 mg of the title compound.

reactant | Lithium hydroxide | 52.1 mg | [OH-].[Li+]
reactant | tert-butyl 2-chloroethoxy-(diethoxyphosphoryl)acetate | 240 mg | ClCCOC(C(=O)OC(C)(C)C)P(=O)(OCC)OCC | C12H24ClO6P
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 173 mg | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
reactant | ethanol | 1.0 mL | C(C)O | C2H6O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | tert-butyl (Z)-2-(2-chloroethoxy)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylate | 51 mg | ClCCO\C(\C(=O)OC(C)(C)C)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C20H25ClN2O4
